US08633183B2
A-8) 4-Trifluoromethyl-5-iodo-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP1 starting from 20.0 g (123 mmol) 4-trifluoromethyl-pyridin-2-ylamine and 27.8 g (123 mmol) NIS. Yield after precipitation from the reaction mixture and isolation of additional product from the mother liquid by chromatography in silica gel: 20.3 g (57%).

reactant | 4-trifluoromethyl-pyridin-2-ylamine | 123 mmol, 20.0 g | FC(C1=CC(=NC=C1)N)(F)F | C6H5F3N2
reactant | NIS | 123 mmol, 27.8 g | C1CC(=O)N(C1=O)I | C4H4INO2
product | 4-Trifluoromethyl-5-iodo-pyridin-2-ylamine | FC(C1=CC(=NC=C1I)N)(F)F | C6H4F3IN2
